US07728029B2
N′-[4-(tert-Butyl-dimethyl-silanyloxy)-cyclohexylidene]-hydrazinecarboxylic acid tert-butyl ester (4.103 g, 11.98 mmol) was dissolved in dry tetrahydrofuran (11.5 mL) and dry methanol (15.0 mL). Sodium cyanoborohydride (0.945 g, 14.29 mmol) was added portionwise. When the effervescence subsided the mixture was refluxed for 1.5 hours. At this time a small additional amount of sodium cyanoborohydride (0.047 g, 0.75 mmol) was added and refluxing was continued for another 30 minutes to insure complete reaction. After cooling to room temperature, 6N HCl (10 mL) was added, resulting in precipitation of a white solid. The mixture was heated at 70° C. for 6 hours and then cooled to room temperature and stirred for 12 hours. The reaction mixture was concentrated and azeotroped with toluene to remove nearly all of the water. The residue was then dissolved in hot isopropanol and cooled back down to room temperature. Any insoluble material was removed by filtration. The filtrate was diluted with ether and chilled. The material dropped out of solution as an oil/gum. The mother liquor was removed by decantation. The oil/gum was then washed with ether and dried in vacuo to give 4-hydrazino-cyclohexanol hydrochloride (1.920 g, 96%). A second crop (0.261 g, 13%) was collected from the mother liquor. The yield was greater than theoretical due to the presence of trapped solvent and small impurities. The material was used without any further purification.

reactant | N′-[4-(tert-Butyl-dimethyl-silanyloxy)-cyclohexylidene]-hydrazinecarboxylic acid tert-butyl ester | 11.98 mmol, 4.103 g | C(C)(C)(C)OC(=O)NN=C1CCC(CC1)O[Si](C)(C)C(C)(C)C | C17H34N2O3Si
reactant | methanol | 15.0 mL | CO | CH4O
reactant | Sodium cyanoborohydride | 14.29 mmol, 0.945 g | C(#N)[BH3-].[Na+]
reactant | HCl | 6N, 10 mL | Cl | ClH
solvent | tetrahydrofuran | 11.5 mL | O1CCCC1 | C4H8O
catalyst | sodium cyanoborohydride | 0.75 mmol, 0.047 g | C(#N)[BH3-].[Na+]
product | 4-hydrazino-cyclohexanol hydrochloride | 1.920 g, 96% | Cl.N(N)C1CCC(CC1)O | InChI=1S/C6H14N2O.ClH/c7-8-5-1-3-6(9)4-2-5;/h5-6,8-9H,1-4,7H2;1H
